US06613743B2
2-(tetrahydro-3-furanyloxy)-1H-isoindole-1,3(2H)-dione.
To a light suspension containing N-hydroxylphthalimide (5.7 mmol, 926 mg), triphenylphosphine (5.7 mmol, 1.49 g), tetrahydro-4H-furan-3-ol (5.7 mmol, 0.459 mL) and anhydrous THF (10 mL), diisopropylazodicarboxylate (6.2 mmol, 1.23 mL) was injected under nitrogen atmosphere. The reaction stirred at room temperature for 5 hours and changed from a dark orange to yellow in appearance. The solvent was removed under vacuum, and the resulting residue was purified by silica gel chromatography (2:1 hexanes/ethyl acetate) and crystallization (hexanes/ethyl acetate) providing 373 mg (28%) of white crystals. Rf=0.5 (1:1 hexanes/ethyl acetate); H1-NMR (CDCl3): δ 7.85-7.82 (2H,m), 7.77-7.74 (2H,m), 5.05 (1H,m), 4.16-4.09 (2H,m), 3.92-3.87 (2H,m), 2.34-2.28 (1H,m), 2.11-2.03 (1H,m).

reactant | N-hydroxylphthalimide | 5.7 mmol, 926 mg | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 5.7 mmol, 1.49 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 6.2 mmol, 1.23 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(tetrahydro-3-furanyloxy)-1H-isoindole-1,3(2H)-dione | 373 mg, 28% | O1CC(CC1)ON1C(C2=CC=CC=C2C1=O)=O | C12H11NO4
